US09079866B2
5-{2′-[(3,3-Difluoropiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-3,3-difluoropiperidine. MS (ESI): mass calcd. for C21H19F3N4O2S, 448.12; m/z found, 449.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.35-8.27 (m, 2H), 8.12-8.05 (m, 1H), 8.01-7.94 (m, 1H), 7.74-7.67 (m, 1H), 7.65-7.58 (m, 1H), 7.44-7.38 (m, 1H), 7.32-7.24 (m, 2H), 3.04-2.96 (m, 2H), 2.95-2.88 (m, 2H), 1.96-1.82 (m, 2H), 1.69-1.61 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-3,3-difluoropiperidine | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)(F)F | C11H12BrF2NO2S
product | 5-{2′-[(3,3-Difluoropiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | FC1(CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)F | C21H19F3N4O2S
